US05134150
a) 2-Oxo-1,2-di(4-cyanophenyl)ethane
To a solution of 25 g of p-cyanobenzaldehyde in 50 ml of ethanol was added 5 g of potassium cyanide in 10 ml of water. The mixture was heated at reflux for 1 hr, cooled, and the crystalline product was filtered and washed with cold ethanol. Recrystallization from acetic acid afforded 4.7 g of the part (a) title compound, mp. 209°-215° C.

reactant | p-cyanobenzaldehyde | 25 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | potassium cyanide | 5 g | [C-]#N.[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-Oxo-1,2-di(4-cyanophenyl)ethane | O=C(CC1=CC=C(C=C1)C#N)C1=CC=C(C=C1)C#N | C16H10N2O
